US08426420B2
4-[(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-6-hydroxy-hexanoyl]-piperazine-1-carboxylic acid butyl ester
To a solution of 819 mg 4-[(S)-6-Benzyloxy-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-hexanoyl]-piperazine-1-carboxylic acid butyl ester in 20 ml ethyl acetate were added under argon 100 mg Pd/C (10%) and the suspension was stirred under an atmosphere of hydrogen (3 bar) for 12 h. The suspension was filtered over a plug of Celite® and washed with ethyl acetate. The crude product obtained after evaporation of the solvent was purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA) to give a mixture of the title compound (8 mg) and unreacted benzyl ether which was subjected to the same hydrogenolysis conditions described above to give the title compound.

reactant | 4-[(S)-6-Benzyloxy-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-hexanoyl]-piperazine-1-carboxylic acid butyl ester | 819 mg | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCCCOCC1=CC=CC=C1)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C43H57N7O8
reactant | benzyl ether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-[(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-6-hydroxy-hexanoyl]-piperazine-1-carboxylic acid butyl ester | 8 mg | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCCCO)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C36H51N7O8
